US09145409B2
Intermediate 50. Methyl 5-((4-(phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)methyl)furan-2-carboxylate (I50)
To a stirred solution of methyl 5-((4-(amino(phenyl)methyl)phenoxy)methyl)-furan-2-carboxylate (301 mg, 0.894 mmol) in anhydrous pyridine (5 mL) at 0° C. under nitrogen was added (R)-quinuclidin-3-yl carbonochloridate hydrochloride (243 mg, 1.07 mmol, prepared as previously reported in 16, Step 6) in one portion. The reaction was stirred at room temperature for 3 days. The reaction was quenched by addition of 10% K2CO3 solution, extracted with ethyl acetate (3×20 mL). The combined organic phases were washed with brine, dried over MgSO4, filtered and the solvent removed in vacuo. The residue was purified by silica gel chromatography, eluting with 0-10% 7N methanolic ammonia in ethyl acetate, to give the title compound as a yellow oil (280 mg, 64%).

reactant | methyl 5-((4-(amino(phenyl)methyl)phenoxy)methyl)-furan-2-carboxylate | 0.894 mmol, 301 mg | NC(C1=CC=C(OCC2=CC=C(O2)C(=O)OC)C=C1)C1=CC=CC=C1 | C20H19NO4
reactant | (R)-quinuclidin-3-yl carbonochloridate hydrochloride | Cl.C(O[C@H]1CN2CCC1CC2)(=O)Cl
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | Methyl 5-((4-(phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)methyl)furan-2-carboxylate | 280 mg, 64% | C1(=CC=CC=C1)C(C1=CC=C(OCC2=CC=C(O2)C(=O)OC)C=C1)NC(=O)O[C@H]1CN2CCC1CC2 | C28H30N2O6
